US06812226B2
2-({3-Nitro-4-[4-(2-oxo-2H-3,1-benzoxazin-1(4H)-yl)piperidin-1-yl]phenyl}carbonyl)benzoic acid
A solution of 1-piperidin-4-yl-1,4-dihydro-2H-3,1-benzoxazin-2-one hydrochloride (J.Med. Chem. 1998, 2157) (0.8 g), 2-(4-chloro-3-nitrobenzoyl)benzoic acid (0.9 g) and triethylamine (0.8 ml) in N,N-dimethylformamide (5 ml) was stirred at room temperature for 72 h. The mixture was partitioned between ethyl acetate and dilute hydrochloric acid, the organic layer was evaporated under reduced pressure. Purification was by chromatography eluting with 4% methanol/dichloromethane. The residue was triturated from methanol, yield 0.4 g as a solid.

reactant | 1-piperidin-4-yl-1,4-dihydro-2H-3,1-benzoxazin-2-one hydrochloride | 0.8 g | Cl.N1CCC(CC1)N1C(OCC2=C1C=CC=C2)=O
reactant | 2-(4-chloro-3-nitrobenzoyl)benzoic acid | 0.9 g | ClC1=C(C=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1)[N+](=O)[O-] | C14H8ClNO5
reactant | triethylamine | 0.8 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-({3-Nitro-4-[4-(2-oxo-2H-3,1-benzoxazin-1(4H)-yl)piperidin-1-yl]phenyl}carbonyl)benzoic acid | [N+](=O)([O-])C=1C=C(C=CC1N1CCC(CC1)N1C(OCC2=C1C=CC=C2)=O)C(=O)C2=C(C(=O)O)C=CC=C2 | C27H23N3O7
